Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with PMH of asthma and depression who presents with nausea, 
vomiting, and dizziness. She was seen on the emergency 
department on ___ after a bicycle accident. She did not 
remember the even and did at that time found herself lying on 
the ground. She was wearing her helmet. She was seen in the ED 
and thought to have had head strike and LOC. She had a CT of her 
head and neck that was negative.  She was noted to have a right 
nondisplaced elbow fracture.

She was discharged home and since then she has noted gradually 
worsening dizziness, and nausea and episodes of nonbloody 
emesis. This is particularly worse with movement her head 
towards the left. She denies headache vision change, numbness, 
weakness, headache.

In the ED, initial vitals were:  98.0 62 117/73 16 97% RA 
Exam notable for: Left gaze nystagmus
Labs notable for: Normal CBC, Chem7, INR 1.0, Lipase 56, 
Fibrinogen 273
Studies notable for: CT head with no hemorrhage, edema, no 
aneurysm or occlusion of the arteries. CTA neck with normal 
carotid arteries.
Patient was given: lorazepam IV x4, meclizine, prochloperazine, 
reglan, and 1L IVF.

On the floor, the patient triggered on arrival for marked 
nursing concern. The patient was nauseous, dizzy and altered. 
She had difficulty staying awake. She denied any pain. 
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
PMH:  asthma, depression
PSH: D&C x 3, tonsillectomy
PGYNH: on ___
POBH: SVD x 3
 
Social History:
___
Family History:
sister w/ ovarian CA
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vital Signs:  98.2 112/59 76 20 99%RA
General: NAD. Sleepy, arousable  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. R elbow ecchymosis with R arm in a sling. R knee abrasion 
 
Neuro: CNII-XII intact, L gaze nystagmus. ___ strength 
upper/lower extremities, grossly normal sensation, 2+ reflexes 
bilaterally, gait deferred.

DISCHARGE PHYSICAL EXAM:  
Vitals: T: 98 BP: 118/50 P:74  R:19 O2: 97%RA
Not orthostatic
EKG with sinus rhythm 
General: NAD. Sleepy, arousable  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. R elbow ecchymosis with R arm in a sling. R knee abrasion 
 
Neuro: CNII-XII intact, L gaze nystagmus. ___ strength 
upper/lower extremities, grossly normal sensation, 2+ reflexes 
bilaterally, gait deferred.
 
Pertinent Results:
ADMISSION LABS:

___ 06:50PM   ___ 06:50PM   PLT COUNT-207
___ 06:50PM   ___ PTT-26.3 ___
___ 06:50PM   WBC-7.9 RBC-3.94 HGB-12.0 HCT-35.4 MCV-90 
MCH-30.5 MCHC-33.9 RDW-13.0 RDWSD-42.7
___ 06:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:50PM   LIPASE-56
___ 06:50PM   UREA N-18 CREAT-0.9
___ 06:55PM   freeCa-1.13
___ 06:55PM   HGB-12.7 calcHCT-38
___ 06:55PM   GLUCOSE-81 LACTATE-1.8 NA+-135 K+-3.9 CL--104 
TCO2-22
___ 06:55PM   PH-7.46* COMMENTS-GREEN TOP

STUDIES:

CT Head ___:
IMPRESSION:  
No acute intracranial pathology. 

CT HEAD ___: No acute intra-axial or extra-axial hemorrhage, 
edema or evidence of a major vascular territorial infarction. 
The ventricles and sulci are normal in size and configuration. 
The paranasal sinuses are normal. The mastoid air cells and 
middle ear cavities are unremarkable. The calvarium is intact. 
  
CTA HEAD ___: 
The vessels of the circle of ___ and their principal 
intracranial branches appear normal with no evidence of 
stenosis, occlusion, or aneurysm. The dural venous sinuses are 
patent. 
  
CTA NECK ___: 
The carotid arteries, as well as their principal branches, are 
patent 
bilaterally without evidence of stenosis, occlusion or aneurysm. 
Left 
dominant vertebrobasilar system. The caliber of the vertebral 
arteries is constant throughout their entire course. 

CT C-SPINE ___:
IMPRESSION: 
1. No cervical spine fracture or traumatic malalignment. 
2. Cervical spondylosis. 

R Shoulder Xray ___:
IMPRESSION: 
1. No evidence of fracture or dislocation. 
2. Minimal degenerative changes. 
  
R Elbow Xray ___:
IMPRESSION:  
Irregularity of the cortex of the right radial neck raising 
possibility of nondisplaced fracture.  No associated joint 
effusion or other fracture identified. 

Chest Xray ___:
IMPRESSION:  
Increased interstitial markings in the lungs, particularly at 
the apices which ___ be chronic.  More focal opacity at the 
right lung apex.
 
DISCHARGE LABS:

___ 02:35AM BLOOD WBC-7.9 RBC-3.75* Hgb-11.3 Hct-33.8* 
MCV-90 MCH-30.1 MCHC-33.4 RDW-13.2 RDWSD-43.2 Plt ___
___ 02:35AM BLOOD Plt ___
___ 02:35AM BLOOD Glucose-111* UreaN-9 Creat-0.5 Na-138 
K-3.6 Cl-106 HCO3-23 AnGap-13
___ 02:35AM BLOOD Calcium-9.3 Phos-3.0 Mg-1.___ woman with a history of depression who presented with 
dizziness and significant nausea the day after a bike accident. 
Pt diagnosed with nondisplaced elbow fracture after the fall and 
no other acute injuries. CT head with no hemorrhage, edema, no 
aneurysm or occlusion of the arteries. CTA neck with normal 
carotid arteries. Pt improved considerably through the day and 
worked with ___. Neurology was also consulted who felt that pt 
likely had a concussion that produced some confusion and benign 
positional vertigo, and both these syndromes are improving. No 
specific treatment necessary but she should not do athletics or 
ride her bike until she follows up with her PCP. 

# Nausea/vomiting/dizziness: This problem had mostly resolved by 
the AM and patient is eager to drink tea and have breakfast. It 
is reassuring that CT non-con, and CTA head and neck do not show 
subdural or subarachnoid nor any area of extravasation. It more 
reassuring that she does not have focal neuro deficits, no 
headache, and repeated normal CT head. Electrolytes and CBC 
normal. In the ED, she had a positive ___ and 
significant nausea, which was treated with multiple sedating 
medications (the likely reason for confusion upon arrival to the 
floor). On exam she has some subtle cognitive findings and 
evidence of disequilibrium. On day of discharge, she no longer 
had symptoms or signs on exam indicating BPPV as she did in the 
ED and this ___ have resolved spontaneously. Overall, her 
history and exam are consistent with a concussion. She had 
amnesia and
confusion after falling off her bike, followed by BPPV, brain 
fog, and disequilibrium. Her mild cognitive complaints as well 
as
disequilibrium ___ be from her concussion but ___ also be 
related to the multiple sedating medications given in the ED 
yesterday. Her symptoms have dramatically improved since 
admission and she tolerated PO well throughout the day prior to 
being discharge. She has no headache or meningeal signs to 
indicate an undiagnosed SAH or diffuse axonal injury.

# nondisplaced elbow fracture- Continued sling.

# depression- Continued home mirtazapine and buproprion.

TRANSITIONAL ISSUES:
=====================
[ ] no biking, alcohol, driving, working or athletics until she 
follows up her PCP
[ ] wear sling for a few days for elbow fracture then stop
[ ] if you don't get an appointment for neurology by ___, 
call and make an appointment with them (see number above)
 
Medications on Admission:
The Preadmission Medication list ___ be inaccurate and requires 
futher investigation.
1. BuPROPion (Sustained Release) 150 mg PO QAM 
2. BuPROPion 75 mg PO QAM 
3. Ranitidine 150 mg PO BID 
4. Loratadine 10 mg PO DAILY 
5. Mirtazapine 7.5 mg PO QHS 

 
Discharge Medications:
1. BuPROPion 75 mg PO QAM 
2. BuPROPion (Sustained Release) 150 mg PO QAM 
3. Loratadine 10 mg PO DAILY 
4. Mirtazapine 7.5 mg PO QHS 
5. Ranitidine 150 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
post concussive syndrome 

Secondary:
depression
asthma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you were having nausea, 
vomiting and dizziness after your fall the day prior. You 
improved quickly and were not vomiting and were able to work 
well with ___. We also sought the opinion or our neurology 
colleagues who think that you will recover from this in due 
time. We think you likely have post-concussive syndrome. You 
really want to go home today, so we are strongly recommending 
that you stay with a close family member of friend or have 
someone stay with you, which you promised you would do for the 
next couple of days. We are also strongly recommending that you 
avoid alcohol completely and not return to work until you have 
been evaluated by your PCP. You should continue to wear the 
sling for your elbow fracture for the next few days, then stop. 
No riding your bike or driving until you see your PCP. You 
should follow up with your PCP and neurology clinic. 

Your ___ Team
 
Followup Instructions:
___